US05342846
A solution of N-benzyl-3-azido pyrrolidine (3 g, 0.0148 mol) and phenyl-acetylene (3 g, 0.0292 mol) in benzene (30 ml) was heated under reflux for 48 hrs. The reaction mixture was concentrated to oil from which the title compounds were isolated by column chromatography using silica gel and a mixture of CHCl3, hexane, MeOH (4:4:1) as eluant. N-benzyl-3-(5-phenyl-1,2,3-triazol-1-yl)pyrrolidine was obtained as oil. Yield: 1 g (22.17%). 1H NMR (CDCl3) δ: 2.32-2.51 (m, 2H), 2.88-3.13 (m, 2H), 3.80 (s, 2H), 5.00 (p, 1H), 7.20-7.53 (m, 10H), 7.67 (s, 1H). N-benzyl-3-(4-phenyl-1,2,3-triazol-1-yl)pyrrolidine, oil, yield 3.0 g. 1H NMR (CDCl3) δ: 2.05-2.22 (m, 1H), 2.30-2.69 (m, 2H), 2.75-3.25 (m, 3H), 5.20- 5.33 (m, 1H), 7.23-7.51 (m, 8H), 7.81-7.92 (m, 2H), 8.06 (s, 1H).

reactant | N-benzyl-3-azido pyrrolidine | 0.0148 mol, 3 g | C(C1=CC=CC=C1)N1CC(CC1)N=[N+]=[N-] | C11H14N4
reactant | phenyl-acetylene | 0.0292 mol, 3 g | C1(=CC=CC=C1)C#C | C8H6
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | hexane | CCCCCC | C6H14
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | MeOH | CO | CH4O
product | N-benzyl-3-(5-phenyl-1,2,3-triazol-1-yl)pyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)N1N=NC=C1C1=CC=CC=C1 | C19H20N4
